US08247560B2
Step 5: synthesis of (S)-mandelamid (compound 5)
To a solution of methylamine (40% in water, 3.8 equivalents) is added, at ambient temperature, methyl (S)-mandelate (1.0 equivalent; commercially available), while keeping the temperature below 30° C. and stirred at ambient temperature until full conversion is achieved. Excess methylamine is removed by azeotropic distillation. Alternatively, after neutralisation with aqueous hydrochloric acid the aqueous solution is saturated with sodium chloride and extracted several times with dichloromethane. The organic layers are combined and the water is removed by azeotropic distillation.

reactant | methylamine | 3.8 equivalents | CN | CH5N
reactant | methyl (S)-mandelate | C([C@@H](O)C1=CC=CC=C1)(=O)OC | C9H10O3
product | (S)-mandelamid | C([C@@H](O)C1=CC=CC=C1)(=O)N | C8H9NO2
